US04977183
3-Bromo-1-(4-fluorophenyl)-2,5-pyrrolidinedione, active material 2
29.4 g. (0.3 mole) maleic acid anhydride were dissolved in 300 ml. toluene and a solution of 33.3 g. (0.3 mole) 4-fluoroaniline in 100 ml. toluene added thereto at 30° C. The hemi-anilide rapidly precipitated out. For the completion of the reaction, the mixture was heated for 2 hours to 100° C., then cooled, the precipitated product filtered off, washed and dried. The yield of hemi-anilide was quantitative. The hemianilide was suspended in acetic acid ethyl ester and 43 g. (0.35 mole) acetyl bromide added thereto. The reaction was carried out by stirring at 30° C. (2 hrs.) and by subsequent 2 hours heating to reflux, thereafter the solvent was distilled off and the residue crystallised. The yield amounted to 69.2 g. (corresponding to 85.5% of theory). The product displayed a melting point of 154° C.

reactant | maleic acid anhydride | 0.3 mole | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 4-fluoroaniline | 0.3 mole | FC1=CC=C(N)C=C1 | C6H6FN
reactant | acetyl bromide | 0.35 mole | C(C)(=O)Br | C2H3BrO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Bromo-1-(4-fluorophenyl)-2,5-pyrrolidinedione | BrC1C(N(C(C1)=O)C1=CC=C(C=C1)F)=O | C10H7BrFNO2
